US06329370B1
3-Benzyloxy-4-methoxy-benzoyl chloride
A solution of 3-benzyloxy-4-methoxy-benzoic acid (35.86 g, 0.139 mole), prepared as described in example 53, in thionyl chloride (150 ml) was refluxed for 2 hours under N2, evaporated to dryness and taken up twice in toluene (100 ml) to give 35.01 g of the title compound (yield: 98%).

reactant | 3-benzyloxy-4-methoxy-benzoic acid | 0.139 mole, 35.86 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1OC | C15H14O4
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Benzyloxy-4-methoxy-benzoyl chloride | 35.01 g, yield: 98% | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OC | C15H13ClO3
